US07863302B2
2-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophene-4-carboxylic acid
To a 60° C. suspension of 4-(4-Bromo-3-methyl-phenoxymethyl)-3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazole (0.90 mmol; 410 mg) in a 2M solution of sodium carbonate (7.20 mmol; 3.6 mL) and 1.5 mL of deoxygenated dioxane under a nitrogen atmosphere is slowly added a solution of 4-carboxy-benzo[b]thiophen-2-boronic acid (1.08=mol; 240 mg) in 3.5 mL of deoxygenated dioxane over 1 h via an addition pump. The mixture is stirred for 1 h. The organic solvent is removed under reduced pressure and the residue is acidified with 1N HCl to pH 4. The resulting solution is extracted with dichloromethane. The organic layers are combined, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue is chromatographed using a gradient from 100% dichloromethane to 100% ethyl acetate to obtain a solid which is washed with acetonitrile to yield the title compound (135 mg, 27%) as a white solid.

reactant | 4-(4-Bromo-3-methyl-phenoxymethyl)-3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazole | 0.90 mmol, 410 mg | BrC1=C(C=C(OCC=2C(=NOC2C(C)C)C2=C(C=CC=C2Cl)Cl)C=C1)C | C20H18BrCl2NO2
reactant | sodium carbonate | 7.20 mmol, 3.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-carboxy-benzo[b]thiophen-2-boronic acid | 240 mg | C(=O)(O)C1=CC=CC=2SC(=CC21)B(O)O | C9H7BO4S
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 2-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophene-4-carboxylic acid | 135 mg, 27% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)C1=CC2=C(S1)C=CC=C2C(=O)O)C)C(C)C | C29H23Cl2NO4S
